US06290947B1
(3-chloropropyl)dimethyloctylammonium bromide was prepared by the reaction of 1-bromo-3-chloropropane and dimethyloctylamine in methanol.

reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | dimethyloctylamine | CN(CCCCCCCC)C | C10H23N
solvent | methanol | CO | CH4O
product | (3-chloropropyl)dimethyloctylammonium bromide | [Br-].ClCCC[N+](CCCCCCCC)(C)C | InChI=1S/C13H29ClN.BrH/c1-4-5-6-7-8-9-12-15(2,3)13-10-11-14;/h4-13H2,1-3H3;1H/q+1;/p-1
